US06599917B1
a) 4-Benzyl-5-bromo-2-(3,4-methylenedioxyphenyl)pyridine
A mixture of 400 mg of 4-benzyl-5-bromo-2-pyridyl trifluoromethanesulfonate, 410 mg of (3,4-methylenedioxyphenyl)tributyltin, 300 mg of tetrabutylammonium chloride, 20 mg of tetrakis(triphenylphsphine)palladium(0) and 2 ml of xylene was stirred under heating for 3 hours in an oil bath kept at 140° C. in a nitrogen atmosphere. The reaction solution was subjected to silica gel column chromatography using 5-10% ethyl acetate/hexane, to give 140 mg of the title compound.

reactant | 4-benzyl-5-bromo-2-pyridyl trifluoromethanesulfonate | 400 mg | FC(S(=O)(=O)OC1=NC=C(C(=C1)CC1=CC=CC=C1)Br)(F)F | C13H9BrF3NO3S
reactant | (3,4-methylenedioxyphenyl)tributyltin | 410 mg | C1OC=2C=C(C=CC2O1)[Sn](CCCC)(CCCC)CCCC
reactant | xylene | 2 ml | C=1(C(=CC=CC1)C)C | C8H10
catalyst | tetrabutylammonium chloride | 300 mg | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 4-Benzyl-5-bromo-2-(3,4-methylenedioxyphenyl)pyridine | 140 mg | C(C1=CC=CC=C1)C1=CC(=NC=C1Br)C1=CC2=C(C=C1)OCO2 | C19H14BrNO2
